US08748612B2
Step 2: 3-(3-ethoxy-2-(ethoxycarbonyl)-3-oxoprop-1-enylamino)pyridine 1-oxide
A mixture of diethyl 3-aminopyridine 1-oxide (3.0 g, 27.3 mmol) and diethyl 2-(ethoxymethylene)malonate (11.8 g, 54.6 mmol) was heated to 130° C. under a Dean-Stark trap for 2 hours. After cooling to room temperature, the mixture was stirred with ethanol (100 mL). The solid was collected by filtration, washed with petroleum ether (100 mL) and dried in vacuo to afford the title compound (6.0 g). 1H NMR (400 MHz, MeOD) δ 8.40-8.39 (t, J=1.6 Hz, 1H), 8.36 (s, 1H), 8.01 (d, J=6.4 Hz, 1H), 7.49 (d, J=1.2 Hz, 1H), 7.46-7.44 (m, 1H), 4.22 (q, J=7.2 Hz, 2H), 4.14 (q, J=7.2 Hz, 2H), 1.08 (t, J=7.2 Hz, 6H).

reactant | diethyl 3-aminopyridine 1-oxide | 27.3 mmol, 3.0 g | C(C)C1=C(C(=[N+](C=C1)[O-])CC)N | C9H14N2O
reactant | diethyl 2-(ethoxymethylene)malonate | 54.6 mmol, 11.8 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-(3-ethoxy-2-(ethoxycarbonyl)-3-oxoprop-1-enylamino)pyridine 1-oxide | 6.0 g | C(C)OC(C(=CNC=1C=[N+](C=CC1)[O-])C(=O)OCC)=O | C13H16N2O5
